US07772285B2
0.34 g of 60% sodium hydride was added to a solution of 1.00 g of 1-methyl-2,3-piperazinedione in 10 mL of N,N-dimethylformamide, and this mixture was stirred for 10 minutes at 50° C. Then, 0.88 mL of 4-fluorobenzaldehyde was added thereto and the mixture was stirred for 30 minutes at 120° C. The mixture was cooled to room temperature, and the solvent was distilled out thereof under reduced pressure. The resultant residue was purified by silica gel column chromatography [eluent; chloroform:ethanol=15:1] to yield 0.80 g of 4-(4-methyl-2,3-dioxo-1-piperazinyl)benzaldehyde as white solid.

reactant | sodium hydride | 0.34 g | [H-].[Na+]
reactant | 1-methyl-2,3-piperazinedione | 1.00 g | CN1C(C(NCC1)=O)=O | C5H8N2O2
reactant | 4-fluorobenzaldehyde | 0.88 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-(4-methyl-2,3-dioxo-1-piperazinyl)benzaldehyde | 0.80 g | CN1C(C(N(CC1)C1=CC=C(C=O)C=C1)=O)=O | C12H12N2O3
